US07932272B2
3-Benzyl amino-benzonitrile
3-Bromo-benzonitrile (500 mg, 2.75 mmol), benzylamine (360 μl, 3.30 mmol), 2,2-bis(diphenylphosphino)-1,1′-binaphthyl (8.6 mg, 14 μmol), tris(dibenzylideneacetone)dipalladium(0) (19 mg, 21 μmol) and sodium tert-butoxide (370 mg, 3.85 mmol) were suspended in toluene (10 mL), and the mixture was stirred at 80° C. for 22 hours under nitrogen atmosphere. The reaction mixture was filtered through Celite pad, then, the filtrate was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=15:1), and the title compound (331 mg, 1.59 mmol, 58%) was obtained as a pale yellow oil.

reactant | 3-Bromo-benzonitrile | 2.75 mmol, 500 mg | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | benzylamine | 3.30 mmol, 360 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 3.85 mmol, 370 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 21 μmol, 19 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2-bis(diphenylphosphino)-1,1′-binaphthyl | 14 μmol, 8.6 mg | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
product | 3-Benzyl amino-benzonitrile | 1.59 mmol, 331 mg, 58% | C(C1=CC=CC=C1)C=1C(=C(C#N)C=CC1)N | C14H12N2
